US06380218B1
1-[2-(4-Fluorophenoxy)-3-pyridinyl)-3-(4-methoxyphenyl)propane
To a solution of 60 mg (0.18 mmol) (E)-2-(4-Fluorophenoxy)-3-[3-(4-methoxyphenyl)-1-propenyl]-pyridine in 50 mL of ethanol was added 50 mg of 10%Pd/C, and the mixture was hydrogenated at 45 psi on a Parr Shaker Apparatus for 2 h. The catalyst was removed by filtration, and the filtrate was concentrated to afford 50 mg (83% yield) of the title compound as a colorless oil. 1H NMR (CDCl3) d 1.92-2.06 (2H, m), 2.67 (2H, t, J=8 Hz), 2.75 (2H, t, J=8 Hz), 3.80 (3H, s), 6.82-7.14 (9H, m), 7.52 (1H, dd, J=2, 7 Hz), 7.99 (1H, dd, J=2, 5 Hz); thermospray MS: m/e 338 (M++1).

reactant | (E)-2-(4-Fluorophenoxy)-3-[3-(4-methoxyphenyl)-1-propenyl]-pyridine | 0.18 mmol, 60 mg | FC1=CC=C(OC2=NC=CC=C2\C=C\CC2=CC=C(C=C2)OC)C=C1 | C21H18FNO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1-[2-(4-Fluorophenoxy)-3-pyridinyl)-3-(4-methoxyphenyl)propane | 50 mg, 83% yield | FC1=CC=C(OC2=NC=CC=C2CCCC2=CC=C(C=C2)OC)C=C1 | C21H20FNO2
